* Z:\mnt\design.r\spice\examples\3815.asc
XU1 N006 MP_01 NC_02 MP_03 MP_04 NC_05 MP_06 MP_07 NC_08 N001 MP_09 MP_10 MP_11 MP_12 IN MP_13 MP_14 MP_15 MP_16 MP_17 MP_18 MP_19 MP_20 IN N008 IN MP_21 NC_22 NC_23 N002 0 OUT N003 N005 N004 N007 0 0 0 LTC3815 Vout_margin_high=.1 Vout_margin_low=.1
V1 IN 0 3.3
C1 N002 0 10n
R1 N007 0 12K
L1 N001 OUT 1µ
C2 OUT 0 100µ x2
R2 N004 N003 1K
C3 N005 N004 1n
R3 N008 0 28K
R4 N006 0 80K
Rload OUT 0 .2
.tran 3m startup
.lib LTC3815.sub
.backanno
.end
